US07282512B2
To a solution of 2.0 g (7.63 mmol) of ethyl 1-[2-(benzyloxy)ethyl]cyclobutanecarboxylate in 20 mL of diethyl ether at 0° C. was added a 1.0 M solution of 15.9 mL (15.9 mmol) of lithium aluminum hydride in tetrahydrofuran and the contents stirred for 2 h. The reaction was quenched with 20 ml of 20% sodium hydroxide solution. After filtration, the organic phase was isolated, dried with magnesium sulfate, and concentrated under vacuum to afford 1.6 g (95%) of {1-[2-(benzyloxy)ethyl]cyclobutyl}methanol as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.41-7.30 (m, 5H), 4.54 (s, 2H), 3.55 (t, J=6 Hz, 2H), 2.03-1.83 (m, 8H).

reactant | ethyl 1-[2-(benzyloxy)ethyl]cyclobutanecarboxylate | 7.63 mmol, 2.0 g | C(C1=CC=CC=C1)OCCC1(CCC1)C(=O)OCC | C16H22O3
reactant | lithium aluminum hydride | 15.9 mmol, 15.9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {1-[2-(benzyloxy)ethyl]cyclobutyl}methanol | 1.6 g, 95% | C(C1=CC=CC=C1)OCCC1(CCC1)CO | C14H20O2
